US07396844B1
Synthesis of 5-bromo-2-(pyrrolidine-1-yl)pyridine
4.95 g (28.6 mmol) of 2-amino-5-bromopyridine was dissolved in 40 ml of toluene. 9.95 ml (57.2 mmol) of diisopropylethylamine, 6.15 g (28.6 mmol) of 1,4-dibromobutane and 100 mg (0.82 mmol) of 4-(dimethylamino)pyridine were added to the solution, and they were stirred for three nights. After the treatment with dichloromethane as the extractant in an ordinary manner, the crude product was obtained, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | 2-amino-5-bromopyridine | 28.6 mmol, 4.95 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | diisopropylethylamine | 57.2 mmol, 9.95 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,4-dibromobutane | 28.6 mmol, 6.15 g | BrCCCCBr | C4H8Br2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-(dimethylamino)pyridine | 0.82 mmol, 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-bromo-2-(pyrrolidine-1-yl)pyridine | BrC=1C=CC(=NC1)N1CCCC1 | C9H11BrN2
